US07317014B2
Synthesis of 4-chloro-1,6-diphenylpyrimidine-2(1H)-one
Oxalyl chloride (3.1 g, 24.4 mmol) was added to a mixture of N,N-dimethylformamide (1.8 g, 24.6 mmol) in dichloromethane (30 ml) at −5° C. to 0° C. under stirring. After the completion of addition the reaction temperature was allowed to reach 20° C. to 25° C. 1,6-Diphenyluracil (4.0 g, 15.2 mmol) was added in portions to the resulted suspension for 2.5 hrs. The reaction mixture was heated to reflux for 4 hours under stirring and continued stirring for 12 hours at room temperature. The reaction mass was poured onto sodium hydroxide solution (150 ml, 0.25 N) and collected the dichloromethane layer. The dichloromethane layer was washed with hydrochloric acid (200 ml, 0.025N), water and saturated sodium chloride solution successively. The organic extract was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the title compound (1.5 g, 35%, HPLC purity 99.8%), mp: 141-143° C.

reactant | Oxalyl chloride | 24.4 mmol, 3.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 24.6 mmol, 1.8 g | CN(C=O)C | C3H7NO
reactant | 1,6-Diphenyluracil | 15.2 mmol, 4.0 g | C1(=CC=CC=C1)N1C(=O)NC(=O)C=C1C1=CC=CC=C1 | C16H12N2O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-chloro-1,6-diphenylpyrimidine-2(1H)-one | 1.5 g, 35% | ClC1=NC(N(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H11ClN2O
